US08809371B2
Aniline (99 μl), WSC.HCl (209 mg), and HOBt.H2O (167 mg) were added to a DMF (5 ml) solution containing 5-bromonicotinic acid (200 mg), followed by stirring at room temperature for 3 hours. A saturated aqueous ammonium chloride solution and ethyl acetate were added to the reaction mixture. The organic layer was collected, washed with saturated saline, and dried over anhydrous magnesium sulfate, and the solvent was distilled away under reduced pressure. Diisopropylether and hexane were added to the obtained residue, solid matter was collected by filtration, and a white solid of 5-bromo-N-phenylnicotinamide (268 mg) was thus obtained.

reactant | Aniline | 99 μl | NC1=CC=CC=C1 | C6H7N
reactant | WSC.HCl | 209 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 5-bromonicotinic acid | 200 mg | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | H2O | 167 mg | O | H2O
product | 5-bromo-N-phenylnicotinamide | 268 mg | BrC=1C=NC=C(C(=O)NC2=CC=CC=C2)C1 | C12H9BrN2O
